US06977264B2
Step (a) tert-Butyl 4-(2-acetylphenyl)-1,2,5,6-tetrahydropyridinecarboxylate
The title compound was prepared according to the procedure described in Preparation A using 2-acetylphenylboronic acid (Aldrich) (1.63 g, 10 mmol), tert-butyl 4-[(trifluoromethyl)sulfonyloxy]-1,2,5,6-tetrahydropyridinecarboxylate [prepared by the method of Wustrow, D. J. and Wise, I. D. Synthesis, 1991, 993-995, from tert-butyl-4-oxopiperidine-1-carboxylate (Aldrich), LDA (Aldrich) and N-phenyltrifluoromethane-sulfonimide (Aldrich)) (3.64 g, 11 mmol), tetrakis(triphenylphosphine)palladium (0) (Strem Chemicals) (0.578 g, 0.5 mmol), LiCl (Aldrich) (1.27g, 30 mmol), and Na2CO3 (Aldrich) (2.46 g, 30 mmol) in water (15 mL) and DME (20 mL). Purification by silica gel chromatography (5:1 hexane:EtOAc) provided the title compound as a white foam (1.77 g). MS (ESI, pos. ion) m/z: 302 (M+1); MS (ESI, neg. ion) m/z: 300 (M−1). Calc'd for C18H23NO3: 301.38.

reactant | 2-acetylphenylboronic acid | 10 mmol, 1.63 g | C(C)(=O)C1=C(C=CC=C1)B(O)O | C8H9BO3
reactant | tert-butyl 4-[(trifluoromethyl)sulfonyloxy]-1,2,5,6-tetrahydropyridinecarboxylate | FC(S(=O)(=O)OC1=CC(NCC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | tert-butyl-4-oxopiperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyltrifluoromethane-sulfonimide | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | LiCl | 30 mmol, 1.27g | [Li+].[Cl-]
reactant | Na2CO3 | 30 mmol, 2.46 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 15 mL | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 0.578 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-(2-acetylphenyl)-1,2,5,6-tetrahydropyridinecarboxylate | 1.77 g | C(C)(=O)C1=C(C=CC=C1)C1=CC(NCC1)C(=O)OC(C)(C)C | C18H23NO3
